US04179276
Seven grams of 3-carbethoxythiomorpholine and 6.5 g of 4-chlorophenyl isocyanate were added to 60 ml of hexanes containing 10 drops of triethylamine as a catalyst. A mild exothermic reaction took place as the reactants mixed. After the mixture cooled to room temperature, the precipitate was collected by filtration and recrystallized from a mixture of methylene chloride and ether to give 4 g of 3-carbethoxy-4-(4-chlorophenylaminocarbonyl)thiomorpholine, mp 152.5°-154.5° C.

reactant | 3-carbethoxythiomorpholine | Seven grams | C(=O)(OCC)C1NCCSC1 | C7H13NO2S
reactant | 4-chlorophenyl isocyanate | 6.5 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
catalyst | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-carbethoxy-4-(4-chlorophenylaminocarbonyl)thiomorpholine | 4 g | C(=O)(OCC)C1N(CCSC1)C(=O)NC1=CC=C(C=C1)Cl | C14H17ClN2O3S
